US08557922B2
7.60 g (7.64 mmol) of 2-(4-nitrophenyl)-1,3di[(2E)-3-{4-[(4-(4,4,4-trifluorobutoxy)benzoyl)oxy]phenyl}prop-2-enoyl]propanediol are dissolved in a mixture of 45 ml of N,N-dimethylformamide and 5 ml water. 12.39 g (45.84 mmol) ferric chloride hexahydrate are added. 4.99 g (76.4 mmol) Zinc powder are added portionwise within 40 min. The mixture is allowed to react for 2 hours. The reaction mixture is then partitioned between ethyl acetate and water and filtered. The organic phase is washed repeatedly with water, dried over sodium sulfate, filtered and concentrated by rotary evaporation. Chromatography of the residue on 1000 g silica gel using toluene:ethyl acetate 1:1 as eluant and crystallization form ethylacetate:hexane mixture to yield 4.30 g of 2-(2,4-Diaminophenyl)-1,3di[(2E)-3-{4-[(4-(4,4,4-trifluorobutoxy)benzoyl)oxy]phenyl}prop-2-enoyl]propanediol.

reactant | 2-(4-nitrophenyl)-1,3di[(2E)-3-{4-[(4-(4,4,4-trifluorobutoxy)benzoyl)oxy]phenyl}prop-2-enoyl]propanediol | 7.64 mmol, 7.60 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(O)(O)C(\C=C\C1=CC=C(C=C1)OC(C1=CC=C(C=C1)OCCCC(F)(F)F)=O)=O)CC(\C=C\C1=CC=C(C=C1)OC(C1=CC=C(C=C1)OCCCC(F)(F)F)=O)=O | C49H41F6NO12
reactant | hexane | CCCCCC | C6H14
reactant | N,N-dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
catalyst | Zinc | 76.4 mmol, 4.99 g | [Zn] | Zn
product | 2-(2,4-Diaminophenyl)-1,3di[(2E)-3-{4-[(4-(4,4,4-trifluorobutoxy)benzoyl)oxy]phenyl}prop-2-enoyl]propanediol | 4.30 g | NC1=C(C=CC(=C1)N)C(C(O)(O)C(\C=C\C1=CC=C(C=C1)OC(C1=CC=C(C=C1)OCCCC(F)(F)F)=O)=O)CC(\C=C\C1=CC=C(C=C1)OC(C1=CC=C(C=C1)OCCCC(F)(F)F)=O)=O | C49H44F6N2O10
